US04940710
A mixture of 7.7 g of 2-chloromethyl-1,4-bis(phenylmethyl)piperazine, 12 g of N-methylpiperazine, 3.5 g of potassium carbonate, 150 ml of dioxane and 60 ml of water was heated overnight at 80°-90° C. and then evaporated. The residual gum was dissolved in dichloromethane, washed with water, dried, filtered and evaporated, giving 8.8 g of 2-[(N-methylpiperazinyl)methyl]-1,4-bis(phenylmethyl)piperazine.

reactant | 2-chloromethyl-1,4-bis(phenylmethyl)piperazine | 7.7 g | ClCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23ClN2
reactant | N-methylpiperazine | 12 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 60 ml | O | H2O
product | 2-[(N-methylpiperazinyl)methyl]-1,4-bis(phenylmethyl)piperazine | 8.8 g | CN1C(CNCC1)CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H34N4
